US04058550
A solution of 7.20 g of 4-(n-hexadecylamino)benzoic acid in 25 ml of hexamethylphosphoramide is added to a stirred mixture of 0.800 g of sodium hydride (57% in mineral oil) and 25 ml of hexamethylphosphoramide. The soluion which forms after one hour is treated with 11.0 g of 1-chloro-2,3-propanediol and is then stirred at 60° C for 18 hours. Dilution with water followed by filtration affords a white solid which is crystallized from ethanol to yield 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate melting at 112°-113° C.

reactant | 4-(n-hexadecylamino)benzoic acid | 7.20 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | sodium hydride | 0.800 g | [H-].[Na+]
reactant | 1-chloro-2,3-propanediol | 11.0 g | ClCC(CO)O | C3H7ClO2
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
